US08980829B2
2-(3-Oxetanyl)ethyl-4-methylbenzenesulfonate
At 0° C., to a solution of 2-(3-oxetanyl)ethanol (according to the synthesis procedure in the reference: Journal of American Chemical Society, 2009, 131, 2786-2787.) (193 mg, 1.89 mmol) in CH2Cl2 (15 mL) was added DABCO (847 mg, 7.56 mmol) and TsCl (1.43 g, 7.56 mmol) was then added dropwise, the mixture was stirred for 15 minutes. After filtration, the filter cake was washed with CH2Cl2 and the filtrate was washed twice with water. The organic phase was dries over anhydrous sodium sulphate. The solvent was evaporated under vacuum. The residue was purified by silica gel column chromatography (petroleum ether/ethyl acetate, 5:1) to afford the target compound.

reactant | 2-(3-oxetanyl)ethanol | O1CC(C1)CCO | C5H10O2
reactant | DABCO | 7.56 mmol, 847 mg | C1CN2CCN1CC2 | C6H12N2
reactant | TsCl | 7.56 mmol, 1.43 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 2-(3-Oxetanyl)ethyl-4-methylbenzenesulfonate | O1CC(C1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C12H16O4S
